US09375006B2
3-(difluoromethyl)-5-fluoro-N-(3-isopropyl-1,1-dimethyl-1,3-dihydro-2-benzofuran-4-yl)-1-methyl-1H-pyrazole-4-carboxamide (example 22)
In a 25 ml round bottom flask, a solution of 3-isopropyl-1,1-dimethyl-1,3-dihydro-2-benzofuran-4-amine (62 mg, 0.301 mmol, 1 eq) in 5 ml of DCM is cooled to 0° C. and triethylamine (0.05 ml, 0.361 mmol, 1.2 eq) is added. A solution of 5-fluoro-3-(difluoromethyl)-1-methyl-1H-pyrazole-4-carbonyl chloride (70 mg, 0.331 mmol, 1.1 eq) in 1 ml of DCM is added dropwise. Stirring is allowed for 4 h at r.t. The reaction is quenched with 1N aq. HCl, and diluted with EtOAc. The aqueous layer was separated and extracted with EtOAc. The organics were combined, washed with NaOH 1N, dried over MgSO4 and concentrated. The crude material was purified by chromatography on silica gel to give pure material (78%)

reactant | 3-isopropyl-1,1-dimethyl-1,3-dihydro-2-benzofuran-4-amine | 0.301 mmol, 62 mg, 1 eq | C(C)(C)C1OC(C2=C1C(=CC=C2)N)(C)C | C13H19NO
reactant | triethylamine | 0.361 mmol, 0.05 ml, 1.2 eq | C(C)N(CC)CC | C6H15N
reactant | 5-fluoro-3-(difluoromethyl)-1-methyl-1H-pyrazole-4-carbonyl chloride | 0.331 mmol, 70 mg, 1.1 eq | FC1=C(C(=NN1C)C(F)F)C(=O)Cl | C6H4ClF3N2O
solvent | DCM | 5 ml | C(Cl)Cl | CH2Cl2
solvent | DCM | 1 ml | C(Cl)Cl | CH2Cl2
product | 3-(difluoromethyl)-5-fluoro-N-(3-isopropyl-1,1-dimethyl-1,3-dihydro-2-benzofuran-4-yl)-1-methyl-1H-pyrazole-4-carboxamide | 78% | FC(C1=NN(C(=C1C(=O)NC1=CC=CC=2C(OC(C21)C(C)C)(C)C)F)C)F | C19H22F3N3O2
